US07074777B2
(1) Synthesis of 1α,3β-dihydroxy-17-{4-hydroxy-4-methyl-(2Z)-pentenyloxymethyl}androsta-5,7,16-triene
1α,3β-Dihydroxy-17-(4-hydroxy-4-methyl-2-pentynyloxymethyl)androsta-5,7,16-triene (78 mg, 0.189 mmol), quinoline (12.3 mg, 0.0952 mmol), 5% palladium/barium sulfate (16 mg) and methanol (5 ml) were stirred at room temperature for 2 hours under a hydrogen atmosphere. The reaction mixture was filtered, evaporated for remove the solvent and purified by column chromatography (dichloromethane: methanol=20:1) to give the titled compound (61 mg, 78%) as a colorless glassy substance.

reactant | 1α,3β-Dihydroxy-17-(4-hydroxy-4-methyl-2-pentynyloxymethyl)androsta-5,7,16-triene | 0.189 mmol, 78 mg | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)COCC#CC(C)(C)O)O | C26H36O4
reactant | quinoline | 0.0952 mmol, 12.3 mg | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | palladium/barium sulfate | 16 mg | [Pd] | Pd
solvent | methanol | 5 ml | CO | CH4O
product | 1α,3β-dihydroxy-17-{4-hydroxy-4-methyl-(2Z)-pentenyloxymethyl}androsta-5,7,16-triene | 61 mg, 78% | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)CO\C=C/CC(C)(C)O)O | C26H38O4
